US04789396
0.19 Gram of 2-acetyl-5-[2-(4-trifluoromethoxyphenylthio)ethyl]cyclohexane-1,3-dione was dissolved in 10 ml of ethanol, and 0.07 g of ethoxyamine hydrochloride and 0.06 g of triethylamine were added to the resulting solution which was then stirred overnight at room temperature. The reaction solution was poured into water, acidified with dilute hydrochloric acid and extracted with chloroform. Chloroform was removed and the residue was purified by thin layer chromatography (eluent, hexane:ethyl acetate=5:1) to obtain 0.12 g of 2-(1-ethoxyaminoethylidene)-5-[2-(4-trifluoromethoxyphenylthio)ethyl]cyclohexane-1,3-dione.

reactant | 2-acetyl-5-[2-(4-trifluoromethoxyphenylthio)ethyl]cyclohexane-1,3-dione | C(C)(=O)C1C(CC(CC1=O)CCSC1=CC=C(C=C1)OC(F)(F)F)=O | C17H17F3O4S
reactant | ethoxyamine hydrochloride | 0.07 g | Cl.C(C)ON
reactant | triethylamine | 0.06 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(1-ethoxyaminoethylidene)-5-[2-(4-trifluoromethoxyphenylthio)ethyl]cyclohexane-1,3-dione | 0.12 g | C(C)ONC(C)=C1C(CC(CC1=O)CCSC1=CC=C(C=C1)OC(F)(F)F)=O | C19H22F3NO4S
